US05514680
Preparation of 7-Bromo-6-nitro-5-trifluoromethyl-1,4-dihydro-2,3-quinoxalinedione
To a solution of 7-bromo-5-trifluoromethyl-1,4-dihydro-2,3-quinoxalinedione (31 mg, 0.10 mmol) in concentrated H2SO4 (0.5 mL) at 0° C. was added KNO3 (11 mg, 0.109 mmol, Baker). The mixture was stirred at 0° C. for 0.5 h, then at room temperature for 12 h and it was poured into ice water (2 g). The precipitate was collected by filtration, affording 32 mg (91.4%) of crude title compound. It was dissolved in 1N KOH (1 mL) and filtered. The filtrate was acidified to pH 2 with 4N HCl to give a brown precipitate, which was collected by filtration, and dried at 50° C. for 4 h, affording pure title compound (28 mg, 79.3%) as a yellow powder. Mp: 292°-94° C., IR (KBr, cm-1): 3412, 3068, 3937, 1718, 1556, 1387. 1H NMR (DMSO-d6): δ7.644 (s, 1H), 11.721 (s, 1H), 12.423 (s, 1H). HRMS: calcd for C9H3CIF3N3O4 (M+) m/z: 352.9258, found: 352.9259.

reactant | 7-bromo-5-trifluoromethyl-1,4-dihydro-2,3-quinoxalinedione | 0.10 mmol, 31 mg | BrC1=CC(=C2NC(C(NC2=C1)=O)=O)C(F)(F)F | C9H4BrF3N2O2
reactant | KNO3 | 0.109 mmol, 11 mg | [N+](=O)([O-])[O-].[K+]
solvent | H2SO4 | 0.5 mL | OS(=O)(=O)O | H2O4S
solvent | KOH | 1N, 1 mL | [OH-].[K+]
product | 7-Bromo-6-nitro-5-trifluoromethyl-1,4-dihydro-2,3-quinoxalinedione | 28 mg, 79.3% | BrC1=C(C(=C2NC(C(NC2=C1)=O)=O)C(F)(F)F)[N+](=O)[O-] | C9H3BrF3N3O4
